US04952574
Using the general method of Example XXIII Part D, 15.4 g (0.058 mole) of 2-ethoxy-5-(2,2,2-trifluoroethoxy)benzoic acid was converted to the acid chloride and then reacted with 2-aminomethylpyridine to provide 14.1 g of crystalline 2-ethoxy-5-(2,2,2-trifluoroethoxy)-N-(2-pyridylmethyl)benzamide, m.p. 110°-111° C. Analysis: Calculated for C17H17F3N2O3 : %C, 57.6; %H, 4.85; %N, 7.9; Found: %C, 57.1; %H, 4.8; %N, 7.8.

reactant | 2-ethoxy-5-(2,2,2-trifluoroethoxy)benzoic acid | 0.058 mole, 15.4 g | C(C)OC1=C(C(=O)O)C=C(C=C1)OCC(F)(F)F | C11H11F3O4
reactant | 2-aminomethylpyridine | NCC1=NC=CC=C1 | C6H8N2
product | 2-ethoxy-5-(2,2,2-trifluoroethoxy)-N-(2-pyridylmethyl)benzamide | 14.1 g | C(C)OC1=C(C(=O)NCC2=NC=CC=C2)C=C(C=C1)OCC(F)(F)F | C17H17F3N2O3
